US05512207
3-Octyloxy-6-(6-octyloxypyridin-3-yl)pyridazine
40 ml of toluene are added under a protective gas to 1.41 g (5.8 mmol) of 3-chloro-6-octyloxypyridazine. A solution of 1.45 g (5.8 mmol) of 2-octyloxy-5-pyridineboronic acid in 20 ml of ethanol, followed by 1.23 g of Na2CO3 and finally 20 ml of water are added. Finally, mg (0.058 mmol) of tetrakis(triphenylphosphine)palladium(0) are added with stirring. The mixture is refluxed for 8 hours and cooled, the phases are separated, the organic phase is washed once with saturated aqueous NaHCO3 solution and dried over MgSO4, and the solvent is removed in vacuo. The residue is chromatographed on SiO2 using CH2Cl2 /ethyl acetate: 20/1. The product obtained can be further purified by recrystallization from n-heptane.

reactant | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
reactant | 3-chloro-6-octyloxypyridazine | 5.8 mmol, 1.41 g | ClC=1N=NC(=CC1)OCCCCCCCC | C12H19ClN2O
reactant | 2-octyloxy-5-pyridineboronic acid | 5.8 mmol, 1.45 g | C(CCCCCCC)OC1=NC=C(C=C1)B(O)O | C13H22BNO3
reactant | Na2CO3 | 1.23 g | C(=O)([O-])[O-].[Na+].[Na+]
solvent | ethanol | 20 ml | C(C)O | C2H6O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.058 mmol | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 20 ml | O | H2O
product | 3-Octyloxy-6-(6-octyloxypyridin-3-yl)pyridazine | C(CCCCCCC)OC=1N=NC(=CC1)C=1C=NC(=CC1)OCCCCCCCC | C25H39N3O2
